US05614530
A mixture of 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline (1.0 g, 0.0043 mol), DMSO (3 mL) and 1-aminoindane (1 g) was heated at 110° C. for 16 hours. The reaction mixture was cooled and then was poured into water (100 mL). The solid which formed was collected by filtration and dried to afford the product as the free base. The free base was dissolved in methanol and then was treated with methanesulfonic acid. The methanol was evaporated and the residue was crystallized from hot methanol/2-propanol and then was recrystallized from hot methanol/2-propanol to afford 717 mg of 1-ethyl-N-(1-indanyl)-1H-pyrazolo[3,4-b]quinolin-4-amine.CH3SO3H, m.p. 233°-235° C.

reactant | 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline | 0.0043 mol, 1.0 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2Cl | C12H10ClN3
reactant | DMSO | 3 mL | CS(=O)C | C2H6OS
reactant | 1-aminoindane | 1 g | NC1CCC2=CC=CC=C12 | C9H11N
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | methanol | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 1-ethyl-N-(1-indanyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 717 mg | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NC2CCC1=CC=CC=C21 | C21H20N4
